Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
Syncope w/ facial trauma
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with a hx ___, HTN, and glaucoma, presenting from 
___ after a fall. Patient had a witnessed fall in the 
dining room of ___ where he lives. Patient reports 
he was walking through a doorway when he suddenly fell. Denies 
getting up suddenly or nausea/vomiting/sensation of warmth prior 
to LOC. On falling, patient struck his head against the wall 
with reported LoC for ___ minutes, without tonic/clonic jerking 
or urinary incontinence. Unclear if LoC preceded falling or was 
after head strike. Patient states that this has never happened 
before, although he has had problems with his balance with 
___. Has not been sick recently. No chest 
pain/SOB/diarrhea, although endorses frequent lightheadedness. 
 Patient was brought to ___, where CT head and C-spine 
were negative, but facial CT showed multiple mildly displaced 
fractures through the medial, posterior, lateral, anterior walls 
of the left maxillary sinus without ICH or rectus intrapment. 
Was transferred to ___ for Plastic Surgery evaluation. 
 In the ED, initial vitals were: 99.6 88 159/79 16 99% RA  
 Patient was noted to have no hard palate mobility and 
ecchymosis surrounding L eye. There were no focal neuro 
deficits.  
 Labs were significant for a negative troponin x1 and 
unremarkable U/A.  
 No new imaging was done.  
 Plastic surgery was consulted and deemed the isolated L 
maxillary sinus fracture to be nonoperative. The decision was 
made to admit to medicine for a syncope workup. The patient was 
given Augmentin per plastics recs and oxycodone for pain.  

 
Past Medical History:
 ___  
 Hypertension  
 Glaucoma  

 
Social History:
___
Family History:
Noncontributory 
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:
===================================
 Vitals: Tm 98.3 Tc 97.9 135/77 81 20 95RA
 GEN: A&Ox3, sitting up in chair eating breakfast, no acute 
distress  
 HEENT: Tacky MM, anicteric sclerae, no conjunctival pallor. 
Ecchymosis over L eye and maxilla.  
 NECK: Supple without LAD  
 PULM: Generally CTA b/l without wheeze or rhonchi  
 COR: RRR (+)S1/S2 no m/r/g  
 ABD: Soft, non-tender, non-distended  
 EXTREM: Warm, well-perfused, no edema  
 NEURO: CN II-XII intact, Extensor and flexor strength ___ in 
bilateral UEs and LEs. Sensation intact in all extremities. 
Patellar reflex 2+ on R, 1+ on L, baseline per patient since his 
L knee replacement. No cogwheel rigidity 

PHYSICAL EXAM ON DISCHARGE:
===================================
 Vitals:  Tm 98.3 Tc 97.0 139/87 70 18 97RA
 GEN: A&O, no acute distress  
 HEENT: Tacky MM, anicteric sclerae, no conjunctival pallor. 
Ecchymosis over L eye and maxilla.  
 NECK: Supple without LAD  
 PULM: Generally CTA b/l without wheeze or rhonchi  
 COR: RRR (+)S1/S2 no m/r/g  
 ABD: Soft, non-tender, non-distended  
 EXTREM: Warm, well-perfused, no edema  
 NEURO: CN II-XII grossly intact, moving all extremities 

 
Pertinent Results:
LABS ON ADMISSION:
==================
___ 06:45AM BLOOD WBC-9.1 RBC-4.07* Hgb-12.8* Hct-38.4* 
MCV-94 MCH-31.4 MCHC-33.3 RDW-13.5 RDWSD-46.1 Plt ___
___ 06:45AM BLOOD Plt ___
___ 06:45AM BLOOD Glucose-105* UreaN-15 Creat-1.0 Na-138 
K-4.0 Cl-101 HCO3-28 AnGap-13
___ 06:45AM BLOOD estGFR-Using this
___ 12:10AM BLOOD cTropnT-<0.01
___ 06:45AM BLOOD Calcium-9.3 Phos-3.1 Mg-1.8
___ 12:10AM BLOOD RedHold-HOLD

LABS ON DISCHARGE:
==================
___ 06:45AM BLOOD WBC-9.1 RBC-4.07* Hgb-12.8* Hct-38.4* 
MCV-94 MCH-31.4 MCHC-33.3 RDW-13.5 RDWSD-46.1 Plt ___
___ 06:45AM BLOOD Plt ___
___ 06:45AM BLOOD Glucose-105* UreaN-15 Creat-1.0 Na-138 
K-4.0 Cl-101 HCO3-28 AnGap-13
___ 06:45AM BLOOD estGFR-Using this
___ 12:10AM BLOOD cTropnT-<0.01
___ 06:45AM BLOOD Calcium-9.3 Phos-3.1 Mg-1.8
___ 12:10AM BLOOD RedHold-HOLD

IMAGING:
===================

___.  Multiple  fractures  of  the  left  maxillary  bone,  left  
ethmoid  bone and  left  orbit.    Likely  hemorrhagic  fluid  
in  left  paranasal  sinuses.
2.  Multiple  fractures  of  the  left  orbit  with  no  
evidence  of herniation.
3.  Age  related  involutional  change.
4.  Small  vessel  ischemic  changes.

___ CT Facial bones
1.  Multiple  fractures  of  the  left  maxillary  bone  with  
hemorrhagic products  and  air  in  the  left  maxillary  sinus. 
   Multiple  fractures  of the  left  ethmoid  bone.    Fracture 
 of  lateral  wall  and  orbital  floor  of the  left  orbit  
with  evidence  of  soft  tissue  herniation.    Likely 
hemorrhagic  products  in  air  within  the  left  frontal  
sinus,  left ethmoid  air  cells,  left  maxillary  sinus.
2.  Preocular  emphysema  anterior  to  the  left  orbit  .
3.  Subcutaneous  edema  in  hematoma  in  the  left  maxilla.

 
Brief Hospital Course:
 # Syncope: consistent with cardiac syncope given abrupt nature 
of fall with facial fracture and complete lack of presyncopal 
symptoms. Telemetry consistent with Mobitz type II. Orthostatics 
were negative (lying down 139/87 sitting 144/98 standing 
134/81). No jerking movements or incontinence observed after 
syncope. Electrolytes normal at OSH. Patient, wife, and daughter 
counseled on our recommendations for pacemaker placement; 
patient declines procedure understanding the risks including 
recurrent syncope or even death. Counseled not to drive. 
Evaluated by ___ and determined safe to go home.

 # Left maxillary sinus fracture - Evaluated by Plastic Surgery 
team in ED, no surgical intervention at this time. No ICH or 
spinal fracture on CT. Started on Augmentin x7 days (___) 
for infection prophylaxis. Ice PRN, pain control with 
acetaminophen. Sinus precautions (no nose blowing) for 1 month. 
___ followup with Dr. ___ in plastics PRN. 

Transitional Issues:
================
- Discharged with ___ugmentin (last day = ___
- Surgery follow up is not needed, but the patient can see Dr. 
___ in plastic surgery clinic if a need arises.
- DNR/DNI confirmed with patient ___
- Newly diagnosed Mobitz II AV block; pacemaker declined by pt.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Midodrine 5 mg PO TID 
2. Carbidopa-Levodopa (___) 1.5 TAB PO TID 
3. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
4. Tamsulosin 0.4 mg PO DAILY 
5. Aspirin 325 mg PO Q6H:PRN pain  
6. Acetaminophen 500 mg PO Q6H:PRN pain 

 
Discharge Medications:
1. Acetaminophen 500 mg PO Q6H:PRN pain 
2. Carbidopa-Levodopa (___) 1.5 TAB PO TID 
3. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
4. Midodrine 5 mg PO TID 
5. Tamsulosin 0.4 mg PO DAILY 
6. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
7. Aspirin 325 mg PO Q6H:PRN pain  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
Mobitz type II Heart Block 
Syncope, likely cardiogenic 
Maxillary bone fracture 
 
Secondary: 
___ 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital after a fall. You were found 
to have a fracture of your facial bones and have been started on 
antibiotics to prevent an infection which you will continue for 
a week after discharge. You were evaluated by our plastic 
surgeons, who determined that no surgery is necessary. Your 
injuries should heal on their own with time. Please avoid 
blowing your nose for the next month to avoid putting pressure 
on your fracture.

You were found to have a transient block in the conduction of 
your heart which is likely the reason for your loss of 
consciousness. We recommended pacemaker placement, which you 
declined. You should not drive with this condition. You were 
seen by physical therapy who felt that you are safe to return 
home.

It was a pleasure taking part in your care. 

Your ___ Team 
 
Followup Instructions:
___